US07282501B2
Step B: 3-[4-{2-[2-(4-Amino-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester
A mixture of 3-(2-(isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-nitro-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester (207 mg, 0.365 mmol) and 10% Pd—C (27 mg) in EtOAc (20 mL) was stirred under H2 (1 atm) for 18 h. The reaction mixture was filtered through Celite and concentrated (75° C.) to give the title compound as a colorless oil (196 mg, 100%): MS (ESI) m/z 538 (M+H)+.

reactant | 3-(2-(isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-nitro-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester | 0.365 mmol, 207 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)[N+](=O)[O-])CNC(=O)OC(C)C)=O | C30H37N3O8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 27 mg | [Pd] | Pd
product | 3-[4-{2-[2-(4-Amino-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 196 mg, 100% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)N)CNC(=O)OC(C)C)=O | C30H39N3O6
